US04443626
19.2 g of 2-oxocyclohexanecarboxylic acid ethyl ester, 21.4 g of p-fluorobenzyl bromide, 7.7 g of sodium ethoxide and 200 ml of ethanol were mixed together to form a mixture which was refluxed for 2 hours, incorporated with 500 ml of water and subjected to extraction with ethyl ether. The resulting ether layer was freed of the ether to obtain a residue. The thus obtained residue was dissolved in 500 ml of 70% ethanol, incorporated with 16.1 g of potassium hydroxide, refluxed for 3 hours and hydrolyzed to obtain 26.5 g of 1-(4-fluorobenzyl)-1,5-pentane dicarboxylic acid having a melting point of 80°-81° C. in the colorless needle form. 26 g of the thus obtained compound in the needle form and 300 g of polyphosphoric acid were mixed together to form a mixture which was agitated at 100° C. for 3 hours. After the end of the reaction, the resulting reaction mixture was incorporated with iced water and subjected to extraction with ethyl acetate. The organic layer was washed with water, dehydrated and freed of the solvent by distilling it off, thereby to obtain a residue. The thus obtained residue was recrystallized from isopropyl ether to obtain 18.2 g of 6-fluoro-1-oxo-2,3-dihydro-2-indene valeric acid in the colorless platy form.

reactant | 2-oxocyclohexanecarboxylic acid ethyl ester | 19.2 g | C(C)OC(=O)C1C(CCCC1)=O | C9H14O3
reactant | p-fluorobenzyl bromide | 21.4 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | sodium ethoxide | 7.7 g | [O-]CC.[Na+]
reactant | potassium hydroxide | 16.1 g | [OH-].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 1-(4-fluorobenzyl)-1,5-pentane dicarboxylic acid | 26.5 g | FC1=CC=C(CC(CCCCC(=O)O)C(=O)O)C=C1 | C14H17FO4
